US07662832B2
Step 1. 7-chloro-2-methyl-3-methylsulfanyl-1H-pyrrolo[2,3-c]pyridine
A solution of 3-amino-2-chloropyridine (1.13 g, 8.84 mmol) in dichloromethane (22.7 ml) was cooled to −78° C. A solution of tert-butyl hyperchloride (2 ml, 17.7 mmol) in dichloromethane (6.8 ml) was added to the solution. The reaction mixture was stirred for 15 minutes and a solution of methylthioacetone (0.91 ml, 8.84 mmol) in dichloromethane (6.8 ml) was slowly added thereto. The reaction mixture was stirred for 90 minutes at the same temperature and a solution of triethylamine (1.36 ml, 8.84 mmol) in dichloromethane (6.8 ml) was added thereto. The reaction mixture was warmed to room temperature and water was added thereto. The separated organic layer was dried on anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified with silica gel column chromatography to give 100 mg of the titled compound as a white solid.

reactant | 3-amino-2-chloropyridine | 8.84 mmol, 1.13 g | NC=1C(=NC=CC1)Cl | C5H5ClN2
reactant | methylthioacetone | 8.84 mmol, 0.91 ml | CCC(C)=S | C4H8S
reactant | triethylamine | 8.84 mmol, 1.36 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 22.7 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6.8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6.8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6.8 ml | ClCCl | CH2Cl2
product | 7-chloro-2-methyl-3-methylsulfanyl-1H-pyrrolo[2,3-c]pyridine | 100 mg | ClC=1N=CC=C2C1NC(=C2SC)C | C9H9ClN2S
